*=============================================================
* Task 4 - Fresh AMUX2_3V Analog 2:1 MUX
*
* Architecture:
*   - Two CMOS transmission gates
*   - One CMOS select inverter
*   - SKY130A 1.8-V devices
*
* Functional truth table:
*   select=0 : I0 -> out
*   select=1 : I1 -> out
*
* External logical pins:
*   I0 I1 select out
*
* Physical/electrical pins:
*   I0 I1 select out VDD VSS
*=============================================================


.subckt AMUX2_3V I0 I1 select out VDD VSS

*-------------------------------------------------------------
* Select inverter
* select -> sel_b
*-------------------------------------------------------------

XINV_P sel_b select VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1.00

XINV_N sel_b select VSS VSS sky130_fd_pr__nfet_01v8 L=0.15 W=0.50

*-------------------------------------------------------------
* Transmission Gate 0
*
* Enabled when select = 0
*
* PMOS gate = sel_b
* NMOS gate = select
*-------------------------------------------------------------

XTG0_P out sel_b I0 VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1.00

XTG0_N out select I0 VSS sky130_fd_pr__nfet_01v8 L=0.15 W=0.50

*-------------------------------------------------------------
* Transmission Gate 1
*
* Enabled when select = 1
*
* PMOS gate = select
* NMOS gate = sel_b
*-------------------------------------------------------------

XTG1_P out select I1 VDD sky130_fd_pr__pfet_01v8 L=0.15 W=1.00

XTG1_N out sel_b I1 VSS sky130_fd_pr__nfet_01v8 L=0.15 W=0.50

.ends AMUX2_3V

*=============================================================
* End of canonical Task 4 transistor-level MUX
*=============================================================
